US06544985B2
A mixture of 3-hydrazinothiocarbonyl-benzoic acid methyl ester trifluoroacetate (0.45 g) and 3-hydroxy-propionimidic acid ethyl ester hydrochloride (0.35 g) in pyridine (5 mL) was heated to 100° C. for 1.5 h. The mixture was diluted with AcOEt and washed with IN HCl and with brine. The organic layer was dried and evaporated and the residual oil was chromatography on silica gel using AcOEt/hexane (1:1) as eluent to give 3-[5-(2-hydroxy-ethyl)-[1,3,4]thiadiazol-2-yl]-benzoic acid methyl ester (0.37 g) as a white solid, MS (ISP) 265.3 [(M+H)+].

reactant | 3-hydrazinothiocarbonyl-benzoic acid methyl ester trifluoroacetate | 0.45 g | FC(C(=O)O)(F)F.COC(C1=CC(=CC=C1)C(=S)NN)=O
reactant | 3-hydroxy-propionimidic acid ethyl ester hydrochloride | 0.35 g | Cl.C(C)OC(CCO)=N
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 3-[5-(2-hydroxy-ethyl)-[1,3,4]thiadiazol-2-yl]-benzoic acid methyl ester | 0.37 g | COC(C1=CC(=CC=C1)C=1SC(=NN1)CCO)=O | C12H12N2O3S
